US06420375B1
Preparation of 1-(6-methoxy-2naphthyl)-1-ethanone
n-BuLi (1.6M in hexane, 73 ml) was added dropwise to a solution of 2-bromo-6-methoxynaphthalene (25.29 g) at −78° C. and the mixture was stirred for 15 minutes. A solution of N-methoxy-N-methylacetamide (11.03 g) was added to the mixture and stirred for 1 hour at −78° C. 1N-HCl was added, and the whole was extracted with ethyl acetate. The extract was concentrated and crystallized from cyclohexane to give the titled compound (17.50 g) as a colorless powder.

reactant | n-BuLi | 1.6M, 73 ml | [Li]CCCC
reactant | 2-bromo-6-methoxynaphthalene | 25.29 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | N-methoxy-N-methylacetamide | 11.03 g | CON(C(C)=O)C | C4H9NO2
reactant | HCl | Cl | ClH
product | 1-(6-methoxy-2naphthyl)-1-ethanone | 17.50 g | COC=1C=C2C=CC(=CC2=CC1)C(C)=O | C13H12O2
